US06399809B1
The amino acid di-n-propylglycine can be obtained in the form of its hydrochloride by combining the ethyl N-methoxycarbonyl-2,2-di-n-propylaminoacetate and the ethyl 2,2-di-n-propylaminoacetate and refluxing the mixture with concentrated hydrochloric acid for 12 hours. After cooling, the solution is extracted with MTBE, and the aqueous solution is evaporated to dryness. The residue is taken up again in water, and the solution is evaporated under reduced pressure in order to remove excess hydrochloric acid to leave 43.8 g (80%) of di-n-propylglycine hydrochloride. This can be used to obtain the free amino acid in accordance with known methods.

reactant | ethyl N-methoxycarbonyl-2,2-di-n-propylaminoacetate | COC(=O)N(C(C(=O)OCC)NCCC)CCC | C12H24N2O4
reactant | ethyl 2,2-di-n-propylaminoacetate | C(CC)NC(C(=O)OCC)NCCC | C10H22N2O2
reactant | hydrochloric acid | Cl | ClH
product | di-n-propylglycine hydrochloride | 43.8 g, 80% | Cl.C(CC)N(CC(=O)O)CCC | InChI=1S/C8H17NO2.ClH/c1-3-5-9(6-4-2)7-8(10)11;/h3-7H2,1-2H3,(H,10,11);1H
